US08119627B2
Preparation of 4-[2-(4-chlorophenoxy)phenylamino]-piperidine-1-carboxylic acid tert-butyl ester STX1680 C22H27ClN2O3, MW: 402.93
To a solution of 2-(4-chlorophenoxy)phenylamine (900 mg, 4.10 mmol), 1-BOC-4-piperidone (1.76 g, 8.82 mmol) and acetic acid (1.32 g, 22.05 mmol) in DCE (15 ml) was added sodium triacetoxyborohydride (2.34 g, 11.04 mmol). This solution was then split into 4 microwave tubes, which were individually heated at 85° C. for 15 minutes in a CEM discover microwave (fixed hold time set to on). The contents of each tube were added to a saturated aqueous sodium bicarbonate solution (25 ml) with extraction with ethyl acetate (3×25 ml) following. The combined organics were dried (MgSO4), filtered and concentrated in vacuo and purification by flash chromatography proceeded (eluant: 3:1 to 1:1 hexane:DCM) to provide a white solid. Recrystallisation was then carried out, which afforded the title compound as a white crystalline solid (1.122 g, 68%). M.Pt. 112-113.4° C. 1H NMR (300 MHz, CDCl3): δ 1.165-1.308 (2H, m, 2×CH), 1.380 (9H, s, t-Bu), 1.909-1.974 (2H, m, 2×CH), 2.822-2.897 (2H, ‘t’, J=11.3 Hz, CH2), 3.385-3.45 (1H, m, CH), 3.85-4.02 (3H, m, 2×CH, NH), 6.542-6.597 (1H, td, ArH), 6.674-6.842 (4H, m, ArH), 6.946-7.002 (1H, td, ArH), 7.157-7.209 ppm (2H, m, ArH). 13C NMR (67.93 MHz, CDCl3): δ 28.5, 32.3, 43.0, 49.8, 79.7, 112.2, 117.0, 118.7, 119.6, 125.3, 127.8, 129.7, 139.0, 143.0, 154.8, 156.2 ppm. LCMS: M+H, 403.46 HPLC: 99.53% (4.9411 min, isocratic, 90% acetonitrile: 10% water, 1 ml/min). CHN: Expected, N=6.95%, C=65.58%, H=6.75% Observed, N=6.82%, C=65.5%, H=6.71%

reactant | 2-(4-chlorophenoxy)phenylamine | 4.10 mmol, 900 mg | ClC1=CC=C(OC2=C(C=CC=C2)N)C=C1 | C12H10ClNO
reactant | 1-BOC-4-piperidone | 8.82 mmol, 1.76 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | acetic acid | 22.05 mmol, 1.32 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 11.04 mmol, 2.34 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 15 ml | ClCCCl | C2H4Cl2
product | 4-[2-(4-chlorophenoxy)phenylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.122 g, 68% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC=C1)OC1=CC=C(C=C1)Cl | C22H27ClN2O3
